US09359375B2
A mixture of (R)-3-(benzyloxy)-2-(3-bromo-4-cyanophenylamino)propanamide (66 mg, 0.176 mmol), 5-amino-3-methylisothiazole hydrochloride (35 mg, 0.232 mmol), BINAP (20 mg, 0.032 mmol), Pd(OAc)2 (15 mg, 0.066 mmol) and K2CO3 (100 mg, 0.724 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 120 C for 18 h. Water and EtOAc were added. After being filtered, the organic phase was separated, dried over Na2SO4, concentrated in vacuo to give (R)-3-(benzyloxy)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)propanamide as a crude residue (73 mg).

reactant | (R)-3-(benzyloxy)-2-(3-bromo-4-cyanophenylamino)propanamide | 0.176 mmol, 66 mg | C(C1=CC=CC=C1)OC[C@H](C(=O)N)NC1=CC(=C(C=C1)C#N)Br | C17H16BrN3O2
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.232 mmol, 35 mg | Cl.NC1=CC(=NS1)C
reactant | BINAP | 0.032 mmol, 20 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 0.724 mmol, 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.066 mmol, 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-3-(benzyloxy)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)propanamide | C(C1=CC=CC=C1)OC[C@H](C(=O)N)NC1=CC(=C(C=C1)C#N)NC1=CC(=NS1)C | C21H21N5O2S
